US09372281B2
Epichlorohydrin (5563 g, 60.12 mol) and methanol (2500 g) were put into a 10-liter reactor. The reaction temperature was adjusted to 5° C. When the reaction temperature reached 5° C., sodium hydroxide (50% aq., 5 g) was added to the mixture. NaSH.xH2O (70% NaSH, 3660 g, 45.75 mol), methanol (1000 g) and water (500 g) were completely dissolved with stirring in another 10-liter reactor, and hydrochloric acid was slowly added dropwise thereto to generate hydrogen sulfide gas. The hydrogen sulfide gas was added to the epichlorohydrin solution to obtain 3-chloro-2-hydroxy-propane-1-thiol. The reaction was stopped when epichlorohydrin disappeared completely and 3-chloro-2-hydroxy-propane-1-thiol was formed, which was confirmed by GC. The reaction mixture was distilled under reduced pressure to obtain 6550 g of 3-chloro-2-hydroxy-propane-1-thiol. The 3-chloro-2-hydroxy-propane-1-thiol (1500 g, 11.85 mol) and methanol (1500 g) were put into a reactor. The mixture was cooled to 10° C., and then 35% hydrogen peroxide (575.61 g, 5.92 mol) was slowly added thereto dropwise, affording bis(3-chloro-2-hydroxypropyl)disulfide (BCPDS).

reactant | 3-chloro-2-hydroxy-propane-1-thiol | 11.85 mol, 1500 g | ClCC(CS)O | C3H7ClOS
reactant | hydrogen peroxide | 5.92 mol, 575.61 g | OO | H2O2
solvent | methanol | 1500 g | CO | CH4O
product | bis(3-chloro-2-hydroxypropyl)disulfide | ClCC(CSSCC(CCl)O)O | C6H12Cl2O2S2
